US07745641B2
3-Amino-4-iodo-6-bromophthalimide (100 mg, 0.273 mmol) was dissolved in THF (5 mL), and the solution was added with 2-(tributylstannyl)thiophene (0.173 mL, 0.546 mmol) and bis(triphenylphosphine)dichloropalladium (15 mg, 0.022 mmol), followed by stirring under reflux for 12.5 hours under argon atmosphere. The reaction mixture was added with 10% aqueous ammonium fluoride solution, extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by slurry using hexane, then purified by preparative thin-layer chromatography (chloroform/acetonitrile=30/1) to obtain 3-amino-4-(thiophen-2-yl)-6-bromophthalimide (77 mg, yield 87%).

reactant | 3-Amino-4-iodo-6-bromophthalimide | 0.273 mmol, 100 mg | NC1=C2C(C(=O)NC2=O)=C(C=C1I)Br | C8H4BrIN2O2
reactant | 2-(tributylstannyl)thiophene | 0.546 mmol, 0.173 mL | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | ammonium fluoride | [F-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)dichloropalladium | 0.022 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-amino-4-(thiophen-2-yl)-6-bromophthalimide | 77 mg, yield 87% | NC1=C2C(C(=O)NC2=O)=C(C=C1C=1SC=CC1)Br | C12H7BrN2O2S
